US04734458
Illustration of the preparation of 1,4-bis(2-methoxy-4-chloromethylphenoxy) butane
A solution of 22 g 1,4-bis(2-methoxy-4-hydroxymethylphenoxy) butane in 200 ml warm CHCl3 was added dropwise to a solution of 60 ml SOCl2 in 100 ml CHCl3. After the addition was completed, the chloroform was boiled off while replacing with heptane. When the temperature reached the boiling point of heptane (97° C.), the solution was decanted from a small amount of yellow oil and allowed to cool. Decantation from oily impurities was continued until the white crystalline product began to form. The solution was cooled, and, after crystallization was completed, the product was filtered, washed with hexane, and air dried. One more recrystallization from heptane gave a pure-white crystalline product which was one spot on TLC. The yield was 23 grams, m.p. 116°-118° C.

reactant | 1,4-bis(2-methoxy-4-hydroxymethylphenoxy) butane | 22 g | COC1=C(OCCCCOC2=C(C=C(C=C2)CO)OC)C=CC(=C1)CO | C20H26O6
reactant | SOCl2 | 60 ml | O=S(Cl)Cl | Cl2OS
reactant | heptane | CCCCCCC | C7H16
reactant | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,4-bis(2-methoxy-4-chloromethylphenoxy) butane | COC1=C(OCCCCOC2=C(C=C(C=C2)CCl)OC)C=CC(=C1)CCl | C20H24Cl2O4
